US06093732
N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-oxobutyl)-3-quinolinecarboxamide
To a mixture of N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-[(E)-3-oxo-1-butenyl]-3-quinolinecarboxamide from Example No. 153 (100 mg) and Et3N (0.35 mL) in 80 mL 3:1 CH2Cl2 :MeOH is added Pd/C (10%, 20 mg). The reaction mixture is placed under the Parr hydrogenator at 29 psi H2 and monitored by mass spectroscopy for complete reduction of the alkene. The old palladium catalyst is replaced with fresh palladium catalyst each time the reaction was taken off the Parr. In this case, the reaction is taken off the Parr once. The reaction is complete in 45 min. The reaction mixutre is filtered over celite to remove the palladium. The filtrate is concentrated. The crude mixture was separated by HPLC to afford 38.7 mg (8%) of the title compound as a yellow solid.

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-[(E)-3-oxo-1-butenyl]-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)\C=C\C(C)=O)F)C=C1 | C21H16ClFN2O3
reactant | Et3N | 0.35 mL | CCN(CC)CC | C6H15N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | palladium | [Pd] | Pd
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | MeOH | CO | CH4O
product | N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-oxobutyl)-3-quinolinecarboxamide | 38.7 mg, 8% | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CCC(C)=O)F)C=C1 | C21H18ClFN2O3
